US08404872B2
A solution of thiirane (E)-ethyl 7-(thiiran-2-yl)hept-6-enoate (40 mg, 0.19 mmol) and Cu(hfacac)2 (4.7 mg, 10 μmol) in benzene (20 mL) was heated at 120° C. for 1.5 h in a pressure tube. Concentration of the solvent in vacuo afforded a residue, which was purified by column chromatography (n-pentane) to give Ethyl 5-(2,5-dihydrothiophen-2-yl)pentanoate (32 mg, 80%) as a colorless oil.

reactant | thiirane (E)-ethyl 7-(thiiran-2-yl)hept-6-enoate | 0.19 mmol, 40 mg | C(C)OC(CCCC\C=C\C1SC1)=O.S1CC1
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 5-(2,5-dihydrothiophen-2-yl)pentanoate | 32 mg, 80% | S1C(C=CC1)CCCCC(=O)OCC | C11H18O2S
